US07166604B2
(b) Preparation of 6-hydroxy-2-methylthiobenzoxazole
A mixture of 6-hydroxy-2-mercaptobenzoxazole (165 mg), sodium bicarbonate (84 mg) and dimethyl sulfate (94 μl) was dissolved in water (2 ml) with stirring and under an argon atmosphere. The reaction mixture was stirred at RT overnight and HPLC showed that all starting material was gone. The reaction mixture was evaporated to dryness to give a dark brown solid (one can also extract the reaction mixture with chloroform to give the crude product). Chromatography on silica gel using 10% ethyl acetate/hexane gave the pure product as a near-white crystalline solid (45 mg, 25%).

reactant | 6-hydroxy-2-mercaptobenzoxazole | 165 mg | OC1=CC2=C(N=C(O2)S)C=C1 | C7H5NO2S
reactant | sodium bicarbonate | 84 mg | C([O-])(O)=O.[Na+]
reactant | dimethyl sulfate | 94 μl | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 2 ml | O | H2O
product | 6-hydroxy-2-methylthiobenzoxazole | 45 mg, 25% | OC1=CC2=C(N=C(O2)SC)C=C1 | C8H7NO2S
